US05700796
10,11-Dihydro-10-(4-(4-butyloxy]benzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 92 mg of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 2 ml of methylene chloride is added 100 mg of triethylamine followed by 130 mg of 4-(n-butyloxy)benzoyl chloride. The reaction mixture is stirred at room temperature for 24 hours and then treated with 4 ml of 1N sodium hydroxide. The mixture is extracted with 10 ml of ethyl acetate and the extract washed with 1N sodium hydroxide and 5 ml of brine. The organic layer is dried over anhydrous sodium sulfate and filtered through hydrous magnesium silicate. The filtrate is concentrate in vacuo to a residue which is stirred with ether-hexanes to give 160 mg of the desired product as a white solid:mass spectrum(CI), 361 (MH+).

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 92 mg | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 100 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(n-butyloxy)benzoyl chloride | 130 mg | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-(4-(4-butyloxy]benzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 160 mg | CCCCOC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C23H24N2O2
